US08106055B2
[Cyclopropyl-(2,4,6-trichlorobenzenesulfonyl)-amino]-acetic Acid (Intermediate K)
A soln. of lithium hydroxide (298 mg, 12.5 mmol) in water (15 ml) was added to a soln. of [cyclopropyl-(2,4,6-trichlorobenzenesulfonyl)-amino]-acetic acid ethyl ester (2.91 g, 7.5 mmol) in THF (25 ml) and the mixture was stirred at RT for approx. 18 h. The mixture was concentrated i. vac. and water was added to the residue. The alkaline residue was extracted with MC (2×50 ml). The aqueous phase was adjusted to pH 1-2 with conc. hydrochloric acid and extracted with EtOAc (3×30 ml). These combined organic phases were dried with Na2SO4 and concentrated i. vac. Toluene was repeatedly added to the residue and the mixture concentrated i. vac. Yield: 1.77 g (65%)

reactant | lithium hydroxide | 12.5 mmol, 298 mg | [OH-].[Li+]
reactant | [cyclopropyl-(2,4,6-trichlorobenzenesulfonyl)-amino]-acetic acid ethyl ester | 7.5 mmol, 2.91 g | C(C)OC(CN(S(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl)C1CC1)=O | C13H14Cl3NO4S
solvent | water | 15 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | [Cyclopropyl-(2,4,6-trichlorobenzenesulfonyl)-amino]-acetic Acid | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl)CC(=O)O | C11H10Cl3NO4S
